US04748175
4-(4-Ethoxycarbonyl-1-piperazinyl)-2-methyl-6,7-dihydro-8H-pyrimido[5,4-b][1,4]oxazin-7-one
A mixture containing 1 g of 4-chloro-2-methyl-6,7-dihydro-8H-pyrimido[5,4-b][1,4]oxazin-7-one (Khim. Geterotsikl. Soed. 1976, 681), 10 ml of n-butanol and 1.58 g of 1-ethoxycarbonylpiperazine is refluxed under protection against moisture and carbon dioxide, then evaporated. The residue is triturated with water and the product precipitated at 0° to 4° C. is filtered, washed with water and ether and dried to give 1.4 g (87%) of product, m.p.: 197°-198° C.

reactant | 4-chloro-2-methyl-6,7-dihydro-8H-pyrimido[5,4-b][1,4]oxazin-7-one | 1 g | ClC1=NC(=NC2=C1OCC(N2)=O)C | C7H6ClN3O2
reactant | 1-ethoxycarbonylpiperazine | 1.58 g | C(C)OC(=O)N1CCNCC1 | C7H14N2O2
reactant | carbon dioxide | C(=O)=O | CO2
solvent | n-butanol | 10 ml | C(CCC)O | C4H10O
product | 4-(4-Ethoxycarbonyl-1-piperazinyl)-2-methyl-6,7-dihydro-8H-pyrimido[5,4-b][1,4]oxazin-7-one | 1.4 g, 87% | C(C)OC(=O)N1CCN(CC1)C1=NC(=NC2=C1OCC(N2)=O)C | C14H19N5O4
